### PR TITLE
[Merged by Bors] - feat(Algebra/Category/ModuleCat/Sheaf): `isQuasicoherent` and `isFinitePresentation` are closed under isomorphisms

### PR DESCRIPTION
**Pull request by justus-springer**
Also slightly changes the definition of `Presentation.IsFinite` to use `GeneratingSections.IsFiniteType` in both fields, which makes the interface more consistent.

Also fixes the naming of `Presentation.of_isIso`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean [hunk 1]
```diff
@@ -51,10 +51,10 @@ structure Presentation (M : SheafOfModules.{u} R) where
 of generators and relations are finite. -/
 class Presentation.IsFinite {M : SheafOfModules.{u} R} (p : M.Presentation) : Prop where
   isFiniteType_generators : p.generators.IsFiniteType := by infer_instance
-  finite_relations : Finite p.relations.I := by infer_instance
+  isFiniteType_relations : p.relations.IsFiniteType := by infer_instance
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean:54]: Could you please add a deprecation?

Comment (chrisflav) [reply Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean:54]: Please also mention this in the PR description, as this is a mostly unrelated change.

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean [hunk 2]
```diff
@@ -307,7 +312,34 @@ theorem Presentation.isQuasicoherent {M : SheafOfModules.{u} R} (P : Presentatio
...
+  presentation i :=
+    Presentation.of_isIso ((pushforward (F := Over.forget (σ.X i)) (𝟙 _)).map f) (σ.presentation i)
+
+instance : (isQuasicoherent R).IsClosedUnderIsomorphisms where
+  of_iso e := by
+    intro ⟨⟨q⟩⟩
+    exact ⟨⟨q.of_isIso e.hom⟩⟩
+
+instance {M N : SheafOfModules.{u} R} (f : M ⟶ N) [IsIso f] (σ : M.QuasicoherentData)
+    [h : σ.IsFinitePresentation] : (σ.of_isIso f).IsFinitePresentation where
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]:
```suggestion
    [σ.IsFinitePresentation] : (σ.of_isIso f).IsFinitePresentation where
```

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean [hunk 3]
```diff
@@ -307,7 +312,34 @@ theorem Presentation.isQuasicoherent {M : SheafOfModules.{u} R} (P : Presentatio
...
 
+/-- Mapping quasicoherent data under an isomorphism. -/
+@[simps]
+noncomputable def QuasicoherentData.of_isIso {M N : SheafOfModules.{u} R} (f : M ⟶ N) [IsIso f]
+    (σ : M.QuasicoherentData) : N.QuasicoherentData where
+  I := σ.I
+  X := σ.X
+  coversTop := σ.coversTop
+  presentation i :=
+    Presentation.of_isIso ((pushforward (F := Over.forget (σ.X i)) (𝟙 _)).map f) (σ.presentation i)
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]: I think we should have an `abbrev SheafOfModules.Hom.over` analogous to `SheafOfModules.over` and use it here.

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean [hunk 4]
```diff
@@ -307,7 +316,33 @@ theorem Presentation.isQuasicoherent {M : SheafOfModules.{u} R} (P : Presentatio
     IsQuasicoherent M where
   nonempty_quasicoherentData := Nonempty.intro (Presentation.quasicoherentData P)
 
+/-- Mapping quasicoherent data under an isomorphism. -/
+@[simps]
+noncomputable def QuasicoherentData.of_isIso {M N : SheafOfModules.{u} R} (f : M ⟶ N) [IsIso f]
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/Quasicoherent.lean]:
```suggestion
noncomputable def QuasicoherentData.ofIsIso {M N : SheafOfModules.{u} R} (f : M ⟶ N) [IsIso f]
```
because this is a `def`. If you want, you can also fix `Presentation.of_isIso`.

**Review by chrisflav — APPROVED** [review]
LGTM, modulo one comment.

**Comment by chrisflav** [comment]
Thanks!
maintainer merge

**Comment by joelriou** [comment]
Thanks!

bors merge
